US08791123B2
(R)-5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)-N-(3-methyl-1H-pyrazol-5-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
To a suspension of (R)-5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation K, 101 mg, 0.283 mmol) in THF (5 mL) was added triethylamine (34.3 mg, 0.339 mmol), followed by the addition of 2,4,6-trichlorobenzoyl chloride (75.8 mg, 0.311 mmol). The suspension was stirred for 2 hours and then 3-methyl-1H-pyrazol-5-amine (35.7 mg, 0.367 mmol) was introduced. The reaction was heated at 60° C. for 3 hours. After cooling to room temperature, the reaction was partitioned between EtOAc (20 mL) and saturated aqueous NaHCO3 (10 mL). After phase-separation, the aqueous layer was extracted with EtOAc (2×10 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The residue was purified via silica chromatography (EtOAc/MeOH 20:1) to yield the title product (23 mg, 19%). LCMS (apci) m/z=437.0 (M+H).

reactant | (R)-5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.283 mmol, 101 mg | FC=1C=C(C(=NC1)OC)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H16FN5O3
reactant | triethylamine | 0.339 mmol, 34.3 mg | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trichlorobenzoyl chloride | 0.311 mmol, 75.8 mg | ClC1=C(C(=O)Cl)C(=CC(=C1)Cl)Cl | C7H2Cl4O
reactant | 3-methyl-1H-pyrazol-5-amine | 0.367 mmol, 35.7 mg | CC1=NNC(=C1)N | C4H7N3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (R)-5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)-N-(3-methyl-1H-pyrazol-5-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 23 mg, 19% | FC=1C=C(C(=NC1)OC)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)NC2=CC(=NN2)C | C21H21FN8O2
